US08445480B2
Step A: 4-Hydroxy-3-(methylthio)benzonitrile
To a solution of 3-amino-4-hydroxybenzonitrile (1.00 g, 7.46 mmol) in dioxane (15 ml) was added t-butyl nitrite (1.12 ml, 14.9 mmol) and the resulting mixture was stirred under nitrogen at room temperature for 15 min. Dimethyl disulfide (5 ml) was then added and the resulting mixture was heated to 90° C. for 3 h. The reaction mixture was purified by flash column chromatography to afford the title compound. Mass spectrum (ESI) 164.1 (−1).

reactant | 3-amino-4-hydroxybenzonitrile | 7.46 mmol, 1.00 g | NC=1C=C(C#N)C=CC1O | C7H6N2O
reactant | t-butyl nitrite | 14.9 mmol, 1.12 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | Dimethyl disulfide | 5 ml | CSSC | C2H6S2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-3-(methylthio)benzonitrile | OC1=C(C=C(C#N)C=C1)SC | C8H7NOS
